US07361763B2
To 3-[3-(2,6-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol (12 mg, 0.0346 mmol) was added 0.5 mL of 33 wt % bromine in AcOH. The mixture was stirred at 70° C. for 6 h, then it was treated with 1.2 mL 50 wt % of aqueous KOH and it was further stirred at room temperature for 3 days, then at 80° C. for 3 hours. The mixture was acidified to pH 4 with 1N aqueous HCl and extracted with EtOAc three times. The extracts were combined and adsorbed on silica gel. Purification on silica gel with a gradient of methanol/dichloromethane afforded 1-{2-hydroxy-3-[5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-4-methoxy-phenyl}-ethanone as a white solid (2.6 mg, 20% yield). 1H NMR (500 MHz, DMSO-d6) δ 2.65 (s, 3H), 3.85 (s, 3H), 6.72 (dd, J=2.5, 8.5 Hz, 1H), 6.83 (d, J=8.5 Hz, 1H), 6.99 (t, J=2.0 Hz, 1H), 7.05 (d, J=8.0 Hz, 1H), 7.23 (t, J=8.0 Hz, 1H), 7.54 (d, J=2.5 Hz, 1H), 7.73 (d, J=2.0 Hz, 1H), 8.00 (d, J=9.0 Hz, 1H), 8.44 (d, J=2.0 Hz, 1H), 9.49 (s, 1H), 11.9 (s, 1H), 13.0 (s, 1H). MS: m/z 375 (M+H+).

reactant | 3-[3-(2,6-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-5-yl]-phenol | 0.0346 mmol, 12 mg | COC1=C(C(=CC=C1)OC)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C21H18N2O3
reactant | bromine | BrBr | Br2
reactant | KOH | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | AcOH | CC(=O)O | C2H4O2
product | 1-{2-hydroxy-3-[5-(3-hydroxy-phenyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-4-methoxy-phenyl}-ethanone | 2.6 mg, 20% yield | OC1=C(C=CC(=C1C1=CNC2=NC=C(C=C21)C2=CC(=CC=C2)O)OC)C(C)=O | C22H18N2O4
